### PR TITLE
refactor(Algebra/Algebra/Equiv): allow for non-unital `AlgEquiv`

### PR DESCRIPTION
**Pull request by themathqueen**
This refactors `AlgEquiv` to allow for non-unital algebras. More specifically, we weaken the type class assumptions from:

```lean
structure AlgEquiv (R A B : Type*) [CommSemiring R] [Semiring A] [Semiring B]
  [Algebra R A] [Algebra R B]
```
to
```lean
structure AlgEquiv (R A B : Type*) [Add A] [Add B] [Mul A] [Mul B] [SMul R A] [SMul R B]
```
Instead of a `commutes'` field, we now have a `map_smul'` field. We also include a definition `AlgEquiv.ofCommutes` which takes in a `RingEquiv` and a `commutes'` field to match before and for convenience.

`StarAlgEquiv` now extends `AlgEquiv`. We also generalize a few files to allow for non-unital.

I suspect there are a few more things to generalize, but will leave this for later.

Co-authored-by: Jireh Loreaux <loreaujy@gmail.com>

---

Zulip: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Refactoring.20.60AlgEquiv.60.20.28.2329354.29/with/575365792

Revives #8686.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MonoidAlgebra/Basic.lean [hunk 1]
```diff
@@ -353,15 +352,17 @@ lemma mapRangeAlgHom_single (f : A →ₐ[R] B) (m : M) (a : A) :
 
 variable (M) in
 /-- The algebra isomorphism of monoid algebras induced by an isomorphism of the base algebras. -/
-@[to_additive (attr := simps apply)
-/-- The algebra isomorphism of additive monoid algebras induced by an isomorphism of the base
-algebras. -/]
+-- @[to_additive] failed... hmm
+-- @[to_additive (attr := simps apply)
+-- /-- The algebra isomorphism of additive monoid algebras induced by an isomorphism of the base
+-- algebras. -/]
```
Comment (themathqueen) [inline Mathlib/Algebra/MonoidAlgebra/Basic.lean]: fix needed here

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean [hunk 2]
```diff
@@ -329,8 +329,11 @@ lemma reverse_charpoly (M : Matrix n n R) :
     rwa [toLaurent_reverse, ← coe_toLaurentAlg, hp, hq, ← involutive_invert.injective.eq_iff,
       map_mul, involutive_invert p, charpoly_natDegree_eq_dim,
       ← mul_one (Fintype.card n : ℤ), ← T_pow, map_pow, invert_T, mul_comm]
+  -- not sure why this is needed here, it won't rewrite with `invert.map_det`
+  have : invert q = (invert.mapMatrix (1 - (scalar n) t * M.map ⇑LaurentPolynomial.C)).det :=
+    invert.map_det (1 - (scalar n) t * M.map ⇑LaurentPolynomial.C)
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Charpoly/Coeff.lean:310]: this is weird

File: Mathlib/LinearAlgebra/CliffordAlgebra/BaseChange.lean [hunk 3]
```diff
@@ -141,8 +141,10 @@ theorem toBaseChange_reverse (Q : QuadraticForm R V) (x : CliffordAlgebra (Q.bas
   have := DFunLike.congr_fun (toBaseChange_comp_reverseOp A Q) x
   refine (congr_arg unop this).trans ?_; clear this
   refine (LinearMap.congr_fun (TensorProduct.AlgebraTensorModule.map_comp _ _ _ _).symm _).trans ?_
-  rw [reverse, ← AlgEquiv.toLinearMap, ← AlgEquiv.toLinearEquiv_toLinearMap,
-    AlgEquiv.toLinearEquiv_toOpposite]
+  -- again something like this is needed...?
+  have : (AlgEquiv.toOpposite A A).toAlgHom.toLinearMap = (AlgEquiv.toOpposite A A).toLinearMap :=
+    rfl
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/CliffordAlgebra/BaseChange.lean:156]: again here

File: Mathlib/Algebra/Star/StarAlgHom.lean
Comment (themathqueen) [inline Mathlib/Algebra/Star/StarAlgHom.lean:1]: oh right, I forgot to deprecate `NonUnitalAlgEquivClass` and make `StarAlgEquiv` extend `AlgEquiv`.

**Comment by ghost** [comment]
!bench

File: Mathlib/RingTheory/Invariant/Profinite.lean [hunk 4]
```diff
@@ -192,10 +192,12 @@ theorem Ideal.Quotient.stabilizerHom_surjective_of_profinite
...
   · ext x
-    obtain ⟨x, rfl⟩ := Ideal.Quotient.mk_surjective x
-    obtain ⟨N, hN⟩ := ProfiniteGrp.exist_openNormalSubgroup_sub_open_nhds_of_one
+    have hx := Ideal.Quotient.mk_surjective x
+    obtain ⟨x, rfl⟩ := hx
+    have hx := ProfiniteGrp.exist_openNormalSubgroup_sub_open_nhds_of_one
       (stabilizer_isOpen G x) (one_mem _)
-    lift x to B' N.1.1 using fun g ↦ hN g.2
+    obtain ⟨N, hN⟩ := hx
+    lift x to B' N.1.1 using fun (g : ↑N.toOpenSubgroup) ↦ hN g.2
```
Comment (themathqueen) [inline Mathlib/RingTheory/Invariant/Profinite.lean:212]: the old code gives a timeout error for some reason 🤷‍♀️

File: Mathlib/RingTheory/TensorProduct/Basic.lean
Comment (themathqueen) [inline Mathlib/RingTheory/TensorProduct/Basic.lean:1]: next pr: generalize some stuff to non-unital

File: Mathlib/Algebra/Star/StarAlgHom.lean [hunk 5]
```diff
@@ -648,30 +642,23 @@ namespace StarAlgEquivClass
 -- See note [lower instance priority]
 instance (priority := 100) {F R A B : Type*} [Monoid R] [NonUnitalNonAssocSemiring A]
     [DistribMulAction R A] [NonUnitalNonAssocSemiring B] [DistribMulAction R B] [EquivLike F A B]
-    [NonUnitalAlgEquivClass F R A B] :
+    [AlgEquivClass F R A B] :
     NonUnitalAlgHomClass F R A B :=
   { }
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/StarAlgHom.lean]: Move to `Algebra.Algebra.Equiv` and import `Algebra.Algebra.NonUnitalHom` there?
(For next PR.)

**Comment by ghost** [comment]
!bench

**Comment by ghost** [comment]
!bench

File: Mathlib/Algebra/Algebra/Equiv.lean [hunk 6]
```diff
@@ -39,33 +44,31 @@ notation:50 A " ≃ₐ[" R "] " A' => AlgEquiv R A A'
...
 /-- `AlgEquivClass F R A B` states that `F` is a type of algebra structure preserving
   equivalences. You should extend this class when you extend `AlgEquiv`. -/
-class AlgEquivClass (F : Type*) (R A B : outParam Type*) [CommSemiring R] [Semiring A]
-    [Semiring B] [Algebra R A] [Algebra R B] [EquivLike F A B] : Prop
-    extends RingEquivClass F A B where
-  /-- An equivalence of algebras commutes with the action of scalars. -/
-  commutes : ∀ (f : F) (r : R), f (algebraMap R A r) = algebraMap R B r
+class AlgEquivClass (F : Type*) (R A B : outParam (Type*)) [Add A] [Add B] [Mul A] [Mul B]
+    [SMul R A] [SMul R B] [EquivLike F A B] extends RingEquivClass F A B,
+      MulActionHomClass F R A B where
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Equiv.lean]: or we can have:
```suggestion
    [SMul R A] [SMul R B] [EquivLike F A B] extends RingEquivClass F A B where
   map_smul : ∀ (f : F) (r : R) (x : A), f (r • x)  = r • f x
```

File: Mathlib/RingTheory/TensorProduct/Basic.lean [hunk 7]
```diff
@@ -593,19 +580,40 @@ and evidence of multiplicativity on pure tensors.
...
-theorem algEquivOfLinearEquivTripleTensorProduct_apply (f h_mul h_one x) :
-    (algEquivOfLinearEquivTripleTensorProduct f h_mul h_one : A ⊗[R] B ⊗[R] C ≃ₐ[R] D) x = f x :=
+theorem algEquivOfLinearEquivTripleTensorProduct_apply (f h_mul x) :
+    (algEquivOfLinearEquivTripleTensorProduct f h_mul : A ⊗[R] B ⊗[R] C ≃ₐ[R] D) x = f x :=
   rfl
 
+end AlgEquiv
+
+variable [Semiring A] [Algebra R A] [Algebra S A] [IsScalarTower R S A]
+variable [Semiring B] [Algebra R B]
```
Comment (themathqueen) [inline Mathlib/RingTheory/TensorProduct/Basic.lean]:
```suggestion
variable [Semiring B] [Algebra R B]

```

File: Mathlib/RingTheory/TensorProduct/Basic.lean [hunk 8]
```diff
@@ -554,36 +557,20 @@ lemma _root_.LinearMap.map_mul_of_map_mul_tmul {f : A ⊗[R] B →ₗ[S] C}
...
-theorem algHomOfLinearMapTensorProduct_apply (f h_mul h_one x) :
-    (algHomOfLinearMapTensorProduct f h_mul h_one : A ⊗[R] B →ₐ[S] C) x = f x :=
-  rfl
-
 /-- Build an algebra equivalence from a linear equivalence out of a tensor product, and evidence
 that on pure tensors, it preserves multiplication and the identity.
 
 Note that we state `h_one` using `1 ⊗ₜ[R] 1` instead of `1` so that lemmas about `f` applied to pure
 tensors can be directly applied by the caller (without needing `TensorProduct.one_def`).
 -/
```
Comment (themathqueen) [inline Mathlib/RingTheory/TensorProduct/Basic.lean]:
```suggestion
that on pure tensors, it preserves multiplication. -/
```

File: Mathlib/RingTheory/AdjoinRoot.lean [hunk 9]
```diff
@@ -764,19 +765,18 @@ noncomputable def quotEquivQuotMap (f : R[X]) (I : Ideal R) :
       rw [this, quotAdjoinRootEquivQuotPolynomialQuot_mk_of, map_C, Quotient.alg_map_eq]
       simp only [RingHom.comp_apply, Quotient.algebraMap_eq, Polynomial.algebraMap_apply])
 
-@[simp]
+-- @[simp]
```
Comment (themathqueen) [inline Mathlib/RingTheory/AdjoinRoot.lean:995]: linter was complaining about this

File: Mathlib/Algebra/MonoidAlgebra/Basic.lean (hunk 1 above)
Comment (fpvandoorn) [reply Mathlib/Algebra/MonoidAlgebra/Basic.lean]: `@[to_additive (dont_translate := R) (attr := simps apply)` works

Comment (themathqueen) [reply Mathlib/Algebra/MonoidAlgebra/Basic.lean]:
```suggestion
@[to_additive (dont_translate := R) (attr := simps apply)
/-- The algebra isomorphism of additive monoid algebras induced by an isomorphism of the base
algebras. -/]
```

File: Mathlib/RingTheory/AdjoinRoot.lean (hunk 9 above)
Comment (themathqueen) [reply Mathlib/RingTheory/AdjoinRoot.lean:995]:
```suggestion
```

File: Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean [hunk 10]
```diff
@@ -75,6 +75,7 @@ theorem inertiaDeg_span_zeta_sub_one : inertiaDeg 𝒑 (span {hζ.toInteger - 1}
     absNorm_span_zeta_sub_one]
 
 attribute [local instance] FractionRing.liftAlgebra in
+attribute [-instance] SubNegMonoid.toZSMul in
```
Comment (themathqueen) [inline Mathlib/NumberTheory/NumberField/Cyclotomic/Ideal.lean]: see error here without this: https://github.com/leanprover-community/mathlib4/actions/runs/18763780945/job/53534434455

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 11]
```diff
@@ -992,9 +992,10 @@ instance : Algebra K (RatFuncAdicCompl K) :=
   RingHom.toAlgebra ((LaurentSeriesRingEquiv K).toRingHom.comp HahnSeries.C)
 
 /-- The algebra equivalence between `K⸨X⸩` and the `X`-adic completion of `RatFunc X` -/
-def LaurentSeriesAlgEquiv : K⸨X⸩ ≃ₐ[K] RatFuncAdicCompl K :=
-  AlgEquiv.ofRingEquiv (f := LaurentSeriesRingEquiv K)
-    (fun a ↦ by simp [RingHom.algebraMap_toAlgebra])
+def LaurentSeriesAlgEquiv : @AlgEquiv K K⸨X⸩ _ _ _ _ _
+    (powerSeriesAlgebra ℤ K).toSMul (instAlgebraRatFuncAdicCompl K).toSMul :=
```
Comment (themathqueen) [inline Mathlib/RingTheory/LaurentSeries.lean]: gives a type mismatch error without specifying this

File: Mathlib/RingTheory/Invariant/Profinite.lean [hunk 12]
```diff
@@ -116,6 +116,8 @@ lemma Ideal.Quotient.stabilizerHomSurjectiveAuxFunctor_aux
   simpa only [Ideal.pointwise_smul_eq_comap,
     ← Ideal.comap_coe (F := RingEquiv _ _), Ideal.comap_comap] using hx
 
+set_option maxHeartbeats 201000 in
+-- needed for some reason
```
Comment (themathqueen) [inline Mathlib/RingTheory/Invariant/Profinite.lean:126]: what's up here?

**Comment by themathqueen** [comment]
!bench

**Comment by jcommelin** [comment]
Maybe the following experiment is worthwhile: generalize the definitions, and make `StarAlgEquiv` extend `AlgEquiv`. But no further generalizations. And then we measure the performance impact of that.
Would you want to try that?

**Comment by jcommelin** [comment]
Let's wait for the current bench results.

**Comment by themathqueen** [comment]
!bench

**Comment by SnirBroshi** [comment]
This seems to generalize to
```lean
structure AlgEquiv (R A B : Type*) [Semiring R] [NonUnitalNonAssocSemiring A]
    [NonUnitalNonAssocSemiring B] [Module R A] [Module R B]
```
unlike what the docstring says.

Is there hope of resurrecting this PR? Or is the slowdown unavoidable?

**Comment by themathqueen** [comment]
I was just experimenting with strengthening the hypotheses. So far, strengthening them makes it even worse. I haven't had the time to play around with this more. It's annoying because you only get a few days max before merge conflicts start to pile up.

It's still on my to do list though, will try to work on this within the next couple of weeks!

**Comment by SnirBroshi** [comment]
Sounds good!

btw I just found out that `NonUnitalAlgHom` exists (leanprover-community/mathlib3#7863), separately from `AlgHom`.
They have stronger hypotheses than `Add`/`Mul`/`SMul` but weaker than the normal `AlgHom`,
and they also allow for semi-linear maps (with a `φ : MonoidHom`) like #38376 tries to do for `AlgHom`/`AlgEquiv`.

There's also a [TODO](https://github.com/leanprover-community/mathlib3/pull/7863#pullrequestreview-688652658) in `NonUnitalHom.lean` that says: "add `NonUnitalAlgEquiv` when needed."
So maybe adding `NonUnitalAlgEquiv` is the solution? Or do you think that `NonUnitalAlgHom` should be merged into `AlgHom`?
I think the answer is that there are `NonUnitalAlgHom`s with `f 1 ≠ 1` but being an equiv makes this [impossible](https://github.com/leanprover-community/mathlib4/blob/043e9e04135db0b68a30660692afa6849a93a243/Mathlib/Algebra/Group/Equiv/Defs.lean#L121-L132), so `NonUnitalAlgEquiv` is redundant similar to how we don't have `NonUnitalRingEquiv`. But if that's the case, why does that TODO exist?

**Comment by themathqueen** [comment]
@SnirBroshi, I forgot to link the Zulip thread about this here: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Refactoring.20.60AlgEquiv.60.20.28.2329354.29/with/575365792.

But you answered your own question haha. It's exactly because what you said. Why does that TODO exist then? My guess is that either they meant "generalize `AlgEquiv` to allow for non-unital if needed" or maybe in the off chance that generalizing it is too problematic and if we **need** a non-unital algebra equivalence, then maybe we can add a new AlgEquiv with weaker hypotheses? At the moment, I don't think anyone has needed it, so adding a new definition seems less productive than just not having it.
